US08580812B2
50% Aqueous H2SO4 (60 mL) is added to 4-Aminopyrazolo[1,5-a]pyridine-2,3-dicarboxylic acid dimethyl ester (1.47 g, 5.90 mmol) under air. The mixture is warmed to 80° C. After 6.5 h, the solution is cooled to 0° C. and then neutralized with 10 N aq. NaOH. The resulting slurry is acidified to pH 3 with 1 M aq. HCl. The volatiles are removed under reduced pressure. The residue is washed with 30% EtOH in CH2Cl2. The volatiles are removed under reduced pressure to afford 4-aminopyrazolo[1,5-a]pyridine-2-carboxylic acid in Na2SO4. LC-MS m/z (M+H+): 178.01. A solution of conc. H2SO4 (6.0 mL) and ethanol (120 mL) is added to the crude 4-aminopyrazolo[1,5-a]pyridine-2-carboxylic acid. The mixture is warmed to 75° C. for 3.5 h. After cooling to rt, the mixture is made basic with dropwise addition of sat. aq. NaHCO3. The volatiles are removed under reduced pressure. The aqueous mixture is filtered (EtOAc rinse). The aqueous solution is extracted with EtOAc (3×250 mL). The combined organics are dried over Na2SO4, filtered, and concentrated to afford the title compound as dark brown solid. LC-MS m/z (M+Na+): 228.03.

reactant | 4-Aminopyrazolo[1,5-a]pyridine-2,3-dicarboxylic acid dimethyl ester | 5.90 mmol, 1.47 g | COC(=O)C1=NN2C(C(=CC=C2)N)=C1C(=O)OC | C11H11N3O4
reactant | NaOH | 10 N | [OH-].[Na+]
reactant | HCl | 1 M | Cl | ClH
solvent | H2SO4 | 60 mL | OS(=O)(=O)O | H2O4S
product | 4-aminopyrazolo[1,5-a]pyridine-2-carboxylic acid | NC=1C=2N(C=CC1)N=C(C2)C(=O)O | C8H7N3O2
